US04820723
2-[4-(4-Acetyl-3-hydroxy-2-(n-propyl)phenoxy)-butyl]-2H-tetrazole-5-butanoic acid
Ethyl 2-[4-(4-acetyl-3-hydroxy-2-(n-propyl) phenoxy)butyl]-2H-tetrazole-5-butanoate (2.4 g) was combined with 5N potassium hydroxide solution (20 ml) in absolute ethanol (20 ml). The mixture was heated to 50° C. for 0.5 hours then cooled to room temperature. The cooled mixture was partitioned between ethyl acetate and water. The organic phase was separated, dried over magnesium sulfate, filtered, and concentrated in vacuo. The concentrate was chromatographed by preparatory-scale HPLC (silica column) eluted with a gradient of 25% to 50% ethyl acetate in hexane plus 1% acetic acid to yield the title product: n.m.r. (300 MHz, CDCl3) δ: 12.80 (s, 1H); 7.54 (d, 1H); 6.35 (d, 1H); 4.60 (t, 2H); 4.01 (t, 2H); 2.82 (m, 2H); 2.57 (t, 2H); 2.51 (s, 3H); 2.20 (m, 4H); 1.95 (m, 2H); 1.80 (m, 2H); 1.46 (m, 2H); 0.88 (t, 3H).

reactant | Ethyl 2-[4-(4-acetyl-3-hydroxy-2-(n-propyl) phenoxy)butyl]-2H-tetrazole-5-butanoate | 2.4 g | C(C)(=O)C1=C(C(=C(OCCCCN2N=C(N=N2)CCCC(=O)OCC)C=C1)CCC)O | C22H32N4O5
reactant | potassium hydroxide | 5N, 20 ml | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[4-(4-Acetyl-3-hydroxy-2-(n-propyl)phenoxy)-butyl]-2H-tetrazole-5-butanoic acid | C(C)(=O)C1=C(C(=C(OCCCCN2N=C(N=N2)CCCC(=O)O)C=C1)CCC)O | C20H28N4O5
